US07872014B2
A mixture of 4-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine 0.153 mg, 0.45 mmol), 3-chloro-4-hydroxybenzaldehyde (141 mg, 0.9 mmol) and trifluoroacetic acid (3 mL) was heated at 70° C. for 18 hours. Then the reaction mixture was concentrated, dissolved in 10 mL of N,N-dimethylformamide, and purified by preparatory HPLC (Shimadzu LC-8A HPLC, Waters Xterra C18 30 mm×100 mm column, acetonitrile-water-trifluoroacetic eluent). After concentration then lyophillization of the pure fractions a yellow powder was obtained. It was dissolved in 4 mL of 1:1 methanol: 4M hydrogen chloride in dioxane, and evaporated to dryness (repeated three times) to give 2-chloro-4-(6-fluoro-1-methyl-8,9-bis{[2-(methyloxy)ethyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloric acid salt (77 mg, 0.15 mmol, 33% yield), 1H NMR (400 MHz, d6-DMSO): 10.48 (b, 1H), 7.48 (s, 1H), 7.32-7.28 (m, 2H), 7.05-7.03 (d, 1H), 4.35-4.33 (m, 2H), 4.25-4.21 (m, 2H), 3.77-3.75 (m, 2H), 3.69-3.66 (m, 2H), 3.35 (s, 3H), 3.22 (s, 3H), 2.80 (s, 3H); MS (EI) for C23H23ClFN3O5: 476 (MH+).

reactant | 4-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine | 0.45 mmol, 0.153 mg | FC=1C=C(C(=C(C1)C=1C(=NNC1N)C)OCCOC)OCCOC | C16H22FN3O4
reactant | 3-chloro-4-hydroxybenzaldehyde | 0.9 mmol, 141 mg | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 4 mL | CO | CH4O
product | 2-chloro-4-(6-fluoro-1-methyl-8,9-bis{[2-(methyloxy)ethyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloric acid salt | 0.15 mmol, 77 mg, 33% yield | Cl.ClC1=C(C=CC(=C1)C1=NC2=C(C=3C(=C(C=C(C13)F)OCCOC)OCCOC)C(=NN2)C)O | InChI=1S/C23H23ClFN3O5.ClH/c1-12-18-20-19(15(25)11-17(32-8-6-30-2)22(20)33-9-7-31-3)21(26-23(18)28-27-12)13-4-5-16(29)14(24)10-13;/h4-5,10-11,29H,6-9H2,1-3H3,(H,26,27,28);1H
